US04548932
To a mixture of ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-hydroxybutyrate (11.5 g), ethyl acetate (200 ml) and pyridine (12 g) is added thionyl chloride (5 ml), and the resulting mixture is refluxed for 1 hour with stirring. After cooling, the mixture is diluted with water (500 ml) and ethyl acetate (100 ml). The organic layer is separated, washed successively with 0.1N hydrochloric acid and water, dried over anhydrous magnesium sulfate, treated with activated carbon and then evaporated in vacuo to give ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorobutyrate (10.5 g) as a pale yellow oil.

reactant | ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-hydroxybutyrate | 11.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C(=O)OCC)O | C19H27NO5
reactant | pyridine | 12 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | 500 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorobutyrate | 10.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C(=O)OCC)Cl | C19H26ClNO4
